US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 3-trifluoromethylbenzylamine using method N. NMR; δH [2H6]—DMSO 9.24,(1H, t), 8.00,(2H, d), 7.90,(1H, dd), 7.77,(1H, d), 7.69-7.52,(7H, m), 4.59,(2H, d), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 3.59 min, MH+ 452.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 3-trifluoromethylbenzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC(=CC=C1)C(F)(F)F | C25H20F3N3O2
